US05744537
One equivalent of tetramethyl ammonium hydroxide pentahydrate (18 g) was reacted with 0.1 equivalent of perfluorooctanoic acid (41 g) in water, to form tetra methylammonium perfluorooctanoate at a concentration of 5 percent by weight of the solution.

reactant | tetramethyl ammonium hydroxide pentahydrate | 18 g, One equivalent | O.O.O.O.O.[OH-].C[N+](C)(C)C
reactant | perfluorooctanoic acid | 41 g, 0.1 equivalent | FC(C(=O)O)(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)F | C8HF15O2
solvent | water | O | H2O
product | tetra methylammonium perfluorooctanoate | FC(C(=O)[O-])(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)F.C[N+](C)(C)C | InChI=1S/C8HF15O2.C4H12N/c9-2(10,1(24)25)3(11,12)4(13,14)5(15,16)6(17,18)7(19,20)8(21,22)23;1-5(2,3)4/h(H,24,25);1-4H3/q;+1/p-1
